US08309580B2
3-{[4-(1-{2-ethyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}-3-methylbutoxy)benzoyl](methyl)amino}propanoic acid
An operation similar to that in Example 1 (4) was performed using 4-(1-{2-ethyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}-3-methylbutoxy)benzoic acid (179 mg) as well as ethyl 3-(methylamino)propanoate (67 mg) to give the title compound (203 mg, 99%) as an oil.

reactant | 4-(1-{2-ethyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}-3-methylbutoxy)benzoic acid | 179 mg | C(C)C=1OC(=CC1C(CC(C)C)OC1=CC=C(C(=O)O)C=C1)C1=CC=C(C=C1)C(F)(F)F | C25H25F3O4
reactant | ethyl 3-(methylamino)propanoate | 67 mg | CNCCC(=O)OCC | C6H13NO2
product | 3-{[4-(1-{2-ethyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}-3-methylbutoxy)benzoyl](methyl)amino}propanoic acid | 203 mg, 99% | C(C)C=1OC(=CC1C(CC(C)C)OC1=CC=C(C(=O)N(CCC(=O)O)C)C=C1)C1=CC=C(C=C1)C(F)(F)F | C29H32F3NO5
